US06451814B1
N-{4-[(2S)-Oxiranylmethoxy]phenyl}methanesulfonamide
N-[4-(Benzyloxy)phenyl]methanesulfonamide (3.0 g, 10.8 mmol) was dissolved in ethanol (150 mL). 10% Palladium on carbon (0.3 g) was added and the mixture shaken overnight under 50 psi hydrogen on a Parr apparatus. The solution was filtered through a Celite pad and the solvent removed to yield the title compound (1.32 g, 7.4 mmol).

reactant | N-[4-(Benzyloxy)phenyl]methanesulfonamide | 10.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NS(=O)(=O)C | C14H15NO3S
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
product | N-{4-[(2S)-Oxiranylmethoxy]phenyl}methanesulfonamide | 7.4 mmol, 1.32 g | O1[C@@H](C1)COC1=CC=C(C=C1)NS(=O)(=O)C | C10H13NO4S
